US07696202B2
[2-(6-chloro-2-morpholin-4-yl-pyrimidin-4-yloxy)-ethyl]-methyl-carbamic acid tert-butyl ester (5.6 g) was dissolved in dioxane (100 mL) and hydrazine (6 mL) was added. The solution was heated to reflux for one hour, at which point the solvent was evaporated. The solid was dissolved in dichloromethane (200 mL) and washed with 10% sodium carbonate (10 mL). The organic layer was dried over magnesium sulfate and evaporated to give [2-(6-hydrazino-2-morpholin-4-yl-pyrimidin-4-yloxy)-ethyl]-methyl-carbamic acid tert-butyl ester, which was used without purification in the next reaction.

reactant | [2-(6-chloro-2-morpholin-4-yl-pyrimidin-4-yloxy)-ethyl]-methyl-carbamic acid tert-butyl ester | 5.6 g | C(C)(C)(C)OC(N(C)CCOC1=NC(=NC(=C1)Cl)N1CCOCC1)=O | C16H25ClN4O4
reactant | hydrazine | 6 mL | NN | H4N2
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | [2-(6-hydrazino-2-morpholin-4-yl-pyrimidin-4-yloxy)-ethyl]-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)CCOC1=NC(=NC(=C1)NN)N1CCOCC1)=O | C16H28N6O4
